US08895566B2
To a solution of tert-butyl 4-((4-chlorophenyl)(hydroxyl)methyl)piperidine-1-carboxylate (1.25 g, 3.84 mmol) in DMF (50 mL) was added sodium hydride 60% w/w dispersion on mineral oil (384 mg, 9.59 mmol). The reaction mixture was stirred for 10 minutes at room temperature then 2-chloro-N,N-dimethylethanamine hydrochloride (608 mg, 4.22 mmol) ws added. The reaction mixture was stirred at 70° C. for 12 h. LC-MS of the reaction mixture showed no more starting material. The reaction mixture was cooled to room temperature and was diluted with EtOAc (50 mL) and washed with 10% LiCl in water (2×50 mL) followed by water (50 mL) and brine (50 mL). The organic layer was dried over Na2SO4, filtered and concentrated to yield tert-butyl 4-((4-chlorophenyl)(2-(dimethylamino)ethoxy)methyl)piperidine-1-carboxylate that was purified by reversed phase HPLC followed by separation on enantiomers by SFC. (253 mg and 246 mg, 33%) m/z: 397 (MH+)

reactant | tert-butyl 4-((4-chlorophenyl)(hydroxyl)methyl)piperidine-1-carboxylate | 3.84 mmol, 1.25 g | ClC1=CC=C(C=C1)C(C1CCN(CC1)C(=O)OC(C)(C)C)O | C17H24ClNO3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 4.22 mmol, 608 mg | Cl.ClCCN(C)C
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-((4-chlorophenyl)(2-(dimethylamino)ethoxy)methyl)piperidine-1-carboxylate | ClC1=CC=C(C=C1)C(C1CCN(CC1)C(=O)OC(C)(C)C)OCCN(C)C | C21H33ClN2O3
